US08022075B2
Subsequently, N,N-dimethylformamide dimethyl acetal (3.0 mL) was added to a solution of 1-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-1-ethanone (2.13 g) in N,N-dimethylformamide (50 mL), followed by heating at 120° C. for 8 hours. The reaction mixture was cooled to room temperature, and the precipitated solid was recovered through filtration, followed by washing with ethanol. The filtrate was concentrated under reduced pressure. The thus-obtained solid and the residue were subjected to flash chromatography. Fractions eluted by dichloromethane-methanol (30:1) were concentrated under reduced pressure, and the solid was recovered through filtration by use of ethyl acetate. Through the above procedure, (E)-3-dimethylamino-1-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-2-propen-1-one (2.38 g) was yielded.

reactant | N,N-dimethylformamide dimethyl acetal | 3.0 mL | COC(N(C)C)OC | C5H13NO2
reactant | 1-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-1-ethanone | 2.13 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)C(C)=O | C15H12N2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (E)-3-dimethylamino-1-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-2-propen-1-one | 2.38 g | CN(/C=C/C(=O)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1)C | C18H17N3O
